US05885990
Preparation of 6-amidino-1-carboxy-2-naphthyl 4-aminoiminomethylaminobenzoate.
To 930 mg of 6-amidino-1-carboxy-2-naphthol.methanesulfonate were added 10 ml of anhydrous pyridine and then 667.5 mg of 4-aminoiminomethylaminobenzoic acid chloride.hydrochloride, followed by stirring for 2 hours under cooling with ice and then 48 hours under cooling with water. The precipitate was collected by filtration and washed with a small amount of pyridine. To the collected precipitated were added 20 ml of warm DMF and then 0.6 ml of methanesulfonic acid. The resulting solution was added dropwise to 600 ml of ether, followed by stirring for 1 hour under cooling with ice. The supernatant liquid was decanted, and 20 ml of methanol was added to the residue. This solution was added dropwise to 450 ml of acetone, followed by stirring for 15 minutes under cooling with ice. Then, the precipitate was collected by filtration and washed with a small amount of acetone to obtain 869 mg of the desired product.

reactant | 6-amidino-1-carboxy-2-naphthol | 930 mg | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)C(=O)O)O | C12H10N2O3
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-aminoiminomethylaminobenzoic acid chloride.hydrochloride | 667.5 mg | Cl.NN=CNC1=CC=C(C(=O)Cl)C=C1
solvent | water | O | H2O
product | 6-amidino-1-carboxy-2-naphthyl 4-aminoiminomethylaminobenzoate | 869 mg | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)C(=O)O)C=C1 | C20H17N5O4
